US07396844B1
Synthesis of methyl 3-(3-cyanophenoxy)propionate
24 mg (0.6 mmol) of sodium hydride was stirred in 10 ml of methyl acrylate. 1 g (8.4 mmol) of 3-hydroxybenzonitrile and 2 mg of hydroquinone were added thereto. After heating under reflux for 3 days, acetic acid was added and they were concentrated under reduced pressure. Ethyl acetate was added to the resultant mixture. After washing with water, 1 N aqueous sodium hydroxide solution and saturated Aqueous NaCl solution, the reaction mixture was dried over anhydrous magnesium sulfate. The solvent was evaporated to obtain the title compound.

reactant | sodium hydride | 0.6 mmol, 24 mg | [H-].[Na+]
reactant | 3-hydroxybenzonitrile | 8.4 mmol, 1 g | OC=1C=C(C#N)C=CC1 | C7H5NO
reactant | hydroquinone | 2 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | methyl acrylate | 10 ml | C(C=C)(=O)OC | C4H6O2
product | methyl 3-(3-cyanophenoxy)propionate | C(#N)C=1C=C(OCCC(=O)OC)C=CC1 | C11H11NO3
